US04689330
A mixture of 3.2 parts of 3,4-dihydro-2H-1-benzopyran-2-methyl 4-methylbenzenesulfonate(ester), 4.2 parts of N-(4-piperidinylmethyl)-2-benzothiazolamine dihydrobromide hemihydrate, 5.3 parts of sodium carbonate, 240 parts of 4-methyl-2-pentanone was stirred and refluxed for 24 hours using a water-separator. The reaction mixture was cooled, washed with water, dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (93:7 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 2,2'-oxybispropane. The product was filtered off and dried, yielding 1.92 parts (48.8%) of N-[[1-[3,4-dihydro-2H-1-benzopyran-2-yl)methyl]-4-piperidinyl]methyl]-2-benzothiazolamine; mp. 150.0° C. (compound 54).

reactant | N-(4-piperidinylmethyl)-2-benzothiazolamine dihydrobromide hemihydrate | O.Br.Br.N1CCC(CC1)CNC=1SC2=C(N1)C=CC=C2.N2CCC(CC2)CNC=2SC1=C(N2)C=CC=C1.Br.Br
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
solvent | water | O | H2O
product | 2-benzothiazolamine | S1C(=NC2=C1C=CC=C2)N | C7H6N2S
